US06828322B2
d) 3-(2-Fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine 0.9 Hydrate
To a solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (0.11 g, 1.0 mmol) (prepared using the conditions described in EP-A-421210) in DMF (5 ml) was added sodium hydride (0.04 g of a 60% dispersion in oil, 1 mol eq) and the reaction mixture was stirred at room temperature for 30 min. After this time 6-chloro-3-(2-fluorophenyl)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (0.19 g, 0.57 mmol) was added and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was diluted with water (70 ml) and the precipitate was collected. The solid was purified by boiling in ethyl acetate and collecting the title compound as a yellow solid (0.01 g, 12%). 1H NMR (250 MHz, d6-DMSO) δ 3.83 (3H, s), 5.64 (2H, s), 7.24 (1H, dd, J 4 and 4 Hz), 7.44-7.55 (2H, m), 7.66-7.71 (1H, m), 7.82 (1H, d, J=5 Hz), 7.96-8.01 (3H, m), 8.23 (1H, s). MS (ES+) m/e 408 [MH]+. Anal. Found C, 53.81; H, 3.62; N, 23.42%. C19H14FN7OS.0.9(H2O) requires C, 53.87; H, 3.76; N, 23.14% m.p. 189-190° C.

reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 1.0 mmol, 0.11 g | CN1N=CN=C1CO | C4H7N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-3-(2-fluorophenyl)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 0.57 mmol, 0.19 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C=2SC=CC2 | C15H8ClFN4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 70 ml | O | H2O
product | 3-(2-Fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | FC1=C(C=CC=C1)C1=NN=C2N1N=C(C(=C2)C=2SC=CC2)OCC=2N(N=CN2)C | C19H14FN7OS
